US07666879B2
A. 3-(4-Nitro-phenyl)-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridine
Combine 7-chloro-3-(4-nitro-phenyl)-imidazo[1,2-a]pyridine (0.417 g, 1.52 mmol), bis(pinacolato)diboron (0.426 g, 1.68 mmol), tricyclohexylphosphine (0.051 g, 0.183 mmol) and potassium acetate (0.224 g, 2.29 mmol) in 1,4-dioxane (20 mL). Bubble nitrogen through the mixture for five minutes. Add tris(dibenzylideneacetone) dipalladium(0) (0.070 g, 0.076 mmol). Heat the mixture to 80° C., stir overnight (15 hr), and cool to room temperature. Filter the mixture through Celite® 521, and concentrate the resulting solution to an orange oil, which is used as is (crude). MS(ES), m/z 366 (M+1).

reactant | 7-chloro-3-(4-nitro-phenyl)-imidazo[1,2-a]pyridine | 1.52 mmol, 0.417 g | ClC1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)[N+](=O)[O-] | C13H8ClN3O2
reactant | bis(pinacolato)diboron | 1.68 mmol, 0.426 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 0.183 mmol, 0.051 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 2.29 mmol, 0.224 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.076 mmol, 0.070 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 3-(4-Nitro-phenyl)-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridine | [N+](=O)([O-])C1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C19H20BN3O4
